US05631279
To a solution, cooled to +5° C., of 10.88 g of (4R, 5R)-4-methyl-5-phenyl-3-[(R)-2-(2-methoxyphenyl)propionyl]-2-oxazolidinone in 300 cm3 of tetrahydrofuran and 100 cm3 of water are added 2.71 g of lithium hydroxide and 13 cm3 of aqueous 30% hydrogen peroxide solution. The reaction mixture is stirred for 3 hours at this temperature, followed, after returning to room temperature, by addition of aqueous sodium sulphite solution and then dichloromethane, and the phases are separated after settling. The aqueous phase is acidified with 4N aqueous hydrochloric acid solution and extracted with dichloromethane, and the organic phase is then dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is recrystallized in hexane, filtered off and dried. 5.24 g of (R)-2-(2-methoxyphenyl)propionic acid are obtained, in the form of white crystals melting at 102° C.; [α]D20 =-76° (c=1; methanol).

reactant | (4R, 5R)-4-methyl-5-phenyl-3-[(R)-2-(2-methoxyphenyl)propionyl]-2-oxazolidinone | 10.88 g | C[C@H]1N(C(O[C@@H]1C1=CC=CC=C1)=O)C([C@H](C)C1=C(C=CC=C1)OC)=O | C20H21NO4
reactant | lithium hydroxide | 2.71 g | [OH-].[Li+]
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 300 cm3 | O1CCCC1 | C4H8O
solvent | water | 100 cm3 | O | H2O
product | (R)-2-(2-methoxyphenyl)propionic acid | 5.24 g | COC1=C(C=CC=C1)[C@H](C(=O)O)C | C10H12O3
